US07943639B2
1-(4-Butyl-benzenesulfonyl)-4-piperazin-1-yl-1H-pyrrolo(3,2-c)pyridine hydrochloride
4-N-Butylbenzenesulfonylchloride (30.0 mg) was added to tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate the title compound (11.9 mg). LC/MS RT: 1.904 (System 10 till 40% MeCN over 1.5 min, ACE C8), Purity. 95%. MS: 400 (M+1) 1HNMR (CD3OD) δ ppm 0.90 (t, J=7.18 Hz, 3H) 1.31 (m, 2H) 1.55 (m, 2H) 2.67 (m, 2H) 3.50 (m, 4H) 4.09 (m, J=3.96 Hz, 4H) 7.25 (d, J=3.71 Hz, 2H) 7.44 (d, J=8.16 Hz, 2H) 7.91 (m, 2H) 8.02 (m, 2H).

reactant | 4-N-Butylbenzenesulfonylchloride | 30.0 mg | CCCCC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate | N1C=CC=2C(=NC=CC21)N2CCN(CC2)C(=O)OC(C)(C)C | C16H22N4O2
product | 1-(4-Butyl-benzenesulfonyl)-4-piperazin-1-yl-1H-pyrrolo(3,2-c)pyridine hydrochloride | 11.9 mg | Cl.C(CCC)C1=CC=C(C=C1)S(=O)(=O)N1C=CC=2C(=NC=CC21)N2CCNCC2 | InChI=1S/C21H26N4O2S.ClH/c1-2-3-4-17-5-7-18(8-6-17)28(26,27)25-14-10-19-20(25)9-11-23-21(19)24-15-12-22-13-16-24;/h5-11,14,22H,2-4,12-13,15-16H2,1H3;1H
